US07129249B2
Methyl 2-[(tert-butoxycarbonyl)amino]-3-(3nitropyridin-2-yl)acrylate
Methyl[(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate (1.33 g, 4.46 mmol) was dissolved in dry THF (20 mL) and cooled to −78° C. under nitrogen. Tetramethylguanidine (490 mg, 4.26 mmol) was added and the solution stirred at −78° C. for a further 10 mins. A solution of 3-nitropyridine-2-carbaldehyde (Tetrahedron vol 0.54 (1998) p 6311) (618 mg, 4.06 mmol) in dry THF (5 mL.) was added drop wise. After stirring the solution for 2 hours. at −78° C. (50 mL) it was diluted with water (150 mL) and extracted with ethyl acetate. The combined extracts were washed with water (2×20 mL) and brine (20 mL), dried (MgSO4) and evaporated under reduced pressure to give a yellow oil, which was purified by column chromatography (DCM) to give the title compound as a 4:1 mixture of Z/E isomers (1.1 g, 84%).

reactant | Methyl[(tert-butoxycarbonyl)amino](dimethoxyphosphoryl)acetate | 4.46 mmol, 1.33 g | COC(C(P(=O)(OC)OC)NC(=O)OC(C)(C)C)=O | C10H20NO7P
reactant | Tetramethylguanidine | 4.26 mmol, 490 mg | CN(C(N(C)C)=N)C | C5H13N3
reactant | 3-nitropyridine-2-carbaldehyde | 4.06 mmol, 618 mg | [N+](=O)([O-])C=1C(=NC=CC1)C=O | C6H4N2O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | Methyl 2-[(tert-butoxycarbonyl)amino]-3-(3nitropyridin-2-yl)acrylate | C(C)(C)(C)OC(=O)NC(C(=O)OC)=CC1=NC=CC=C1[N+](=O)[O-] | C14H17N3O6
